US04880806
To 3-ethyl-2,4,5-trifluoro-nitrobenzene (1.02 g) are added ethanol (4.5 ml) and water (0.5 ml) and the mixture is stirred. To the mixture is added with stirring a mixture of 1-methylpiperazine (0.83 ml), triethylamine (1.0 ml) and ethanol (0.6 ml), and the mixture is refluxed for 5 hours. To the reaction mixture is further added 1-methylpiperazine (1.0 ml), and the mixture is refluxed for 3 hours. The mixture is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography (solvent, methylene chloride) to give 3-ethyl-2,5-difluoro-4-(4-methyl-1-piperazinyl)nitrobenzene (1.12 g), as yellow oil.

reactant | 3-ethyl-2,4,5-trifluoro-nitrobenzene | 1.02 g | C(C)C=1C(=C(C=C(C1F)F)[N+](=O)[O-])F | C8H6F3NO2
reactant | water | 0.5 ml | O | H2O
reactant | 1-methylpiperazine | 0.83 ml | CN1CCNCC1 | C5H12N2
reactant | 1-methylpiperazine | 1.0 ml | CN1CCNCC1 | C5H12N2
solvent | ethanol | 0.6 ml | C(C)O | C2H6O
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | 3-ethyl-2,5-difluoro-4-(4-methyl-1-piperazinyl)nitrobenzene | 1.12 g | C(C)C=1C(=C(C=C(C1N1CCN(CC1)C)F)[N+](=O)[O-])F | C13H17F2N3O2
